US07700552B2
7-Methoxy-8-methyl-2-(4-methoxyphenyl)-quinazolin-4-ol (93)
To a suspension of 2-amino-4-methoxy-3-methyl benzamide in dry THF (60 ml) was added pyridine (2 eq) and the mixture was cooled to 5° C. 4-Methoxybenzoic acid chloride (1.25 eq) was added slowly and the mixture was stirred at room temperature overnight. The mixture was evaporated under reduced pressure and then suspended in water. The compound was left in the water for some hours, filtered and washed with cold water and diethyl ether and dried under vacuum. The residue was then added to a suspension of sodium carbonate (2.5 eq) in a 1:1 mixture of water and EtOH and the mixture was refluxed for two hours. The EtOH was removed under reduced pressure, a solution of 5% citric acid was added and the mixture was allowed to stay overnight. The title compound was isolated by filtration, then washed with water and diethyl ether and dried under vacuum. (5.5 g, 92%).

reactant | 2-amino-4-methoxy-3-methyl benzamide | NC1=C(C(=O)N)C=CC(=C1C)OC | C9H12N2O2
reactant | pyridine | 2 eq | N1=CC=CC=C1 | C5H5N
reactant | 4-Methoxybenzoic acid chloride | 1.25 eq | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
reactant | sodium carbonate | 2.5 eq | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | EtOH | CCO | C2H6O
solvent | water | O | H2O
product | 7-Methoxy-8-methyl-2-(4-methoxyphenyl)-quinazolin-4-ol | COC1=CC=C2C(=NC(=NC2=C1C)C1=CC=C(C=C1)OC)O | C17H16N2O3
